US07411072B2
5-(3-Difluoromethoxy-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene
Add pellets of KOH (376 mg, 6.7 mmol) to a solution of 3-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenol (200 mg, 0.67 mmol) in isopropanol (10 mL). Bubble chlorodifluoromethane (Freon 22) slowly into the reaction mixture for 2 h. Concentrate the reaction mixture, and take the residue up in 1N HCl. Extract into ethyl acetate, dry organics (MgSO4), filter, and concentrate to a milky tan oil containing the title compound. Purify via silica gel chromatography (1:20 ethyl acetate:hexanes) to afford 108 mg (20%) of a white solid, mp 91.3° C. 1H NMR (CDCl3) δ 2.66-3.56 (br m, 4H), 6.12 (t, 1H, J=80 Hz), 6.55-7.43 (m, 13H); MS (EI) 348. HPLC shows 97% purity.

reactant | KOH | 6.7 mmol, 376 mg | [OH-].[K+]
reactant | 3-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenol | 0.67 mmol, 200 mg | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC=3C=C(C=CC3)O | C22H18O
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | 5-(3-Difluoromethoxy-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 108 mg, 20% | FC(OC=1C=C(C=C2C3=C(CCC4=C2C=CC=C4)C=CC=C3)C=CC1)F | C23H18F2O
